US05130406
I.24. Preparation of (tetrahydrofuran)-aluminium(III) hexafluoroantimonate [process c)]
0.13 g (0.87 mmol) of aluminium trichloride is dissolved in 2 g of dry diethyl ether, and 5 ml of dry tetrahydrofuran are then added. 10 g (2.95 mmol) of solid triethyloxonium hexafluoroantimonate are added to the clear solution under argon as an inert gas and dissolve immediately. After 5 minutes, the product starts to crystallize out. After 2 hours at 40° C., the product is filtered off under an inert gas, washed twice with dry THF and dried at room temperature under a high vacuum. 0.9 g of fine colourless crystals is obtained.

reactant | aluminium trichloride | 0.87 mmol, 0.13 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | triethyloxonium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.C(C)[O+](CC)CC
solvent | diethyl ether | 2 g | C(C)OCC | C4H10O
product | (tetrahydrofuran)-aluminium(III) hexafluoroantimonate | 0.9 g | F[Sb-](F)(F)(F)(F)F.[Al+3].O1CCCC1.F[Sb-](F)(F)(F)(F)F.F[Sb-](F)(F)(F)(F)F | InChI=1S/C4H8O.Al.18FH.3Sb/c1-2-4-5-3-1;;;;;;;;;;;;;;;;;;;;;;/h1-4H2;;18*1H;;;/q;+3;;;;;;;;;;;;;;;;;;;3*+5/p-18
